US05731306
Step a: Methanesulfonic acid 2-(2-chloromethyl-phenyl)-ethyl ester
Mix 2-(2-hydroxymethyl-phenyl)-ethanol (12.0 g, 78.8 mmol) and collidine (23 mL, 0.17 mol) and treat with lithium chloride (7.35 g, 0.173 mmol) in dimethylformamide (125 mL). Cool in an ice bath and treat, by dropwise addition, with mesyl chloride (13.4 mL). Stir at 0° C. for 4 hours, partition between ice water (300 mL) and a 1:1 mixture of ether:pentane (2×400 mL). Wash the organic layer with a saturated solution of CuSO4 (2×200 mL), dry (MgSO4) and purify by silica gel chromatography (2.5:1 hexane/ethyl acetate followed by 2:1 hexane/ethyl acetate followed by 3:2 hexane/ethyl acetate) to give the title compound as a pale yellow oil (8.8 g, 45%).

reactant | 2-(2-hydroxymethyl-phenyl)-ethanol | 78.8 mmol, 12.0 g | OCC1=C(C=CC=C1)CCO | C9H12O2
reactant | collidine | 0.17 mol, 23 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | lithium chloride | 0.173 mmol, 7.35 g | [Cl-].[Li+]
reactant | mesyl chloride | 13.4 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
product | Methanesulfonic acid 2-(2-chloromethyl-phenyl)-ethyl ester | 8.8 g, 45% | ClCC1=C(C=CC=C1)CCOS(=O)(=O)C | C10H13ClO3S
